US08541448B2
Intermediate 41.1 (E)-ethyl 2-methyl-3-(3,4,5-trifluorophenyl)acrylate
To a solution of dry DMF (50 mL) under N2 was added 3,4,5-trifluorobenzaldehyde (4.26 g, 26.6 mmol) followed by ethyl 2-(triphenylphosphoranylidene)propionate (10.6 g, 29.3 mmol) in portions, keeping the solution at room temperature. After 1 hour, TLC (10% EtOAC in Hexanes) showed complete conversion, and the solvent was removed by rotary evaporation. The resulting material was brought up in 50 mL methyl t-butyl ether (MBTE) and the precipitate removed by filtration and washed with additional MBTE (3×50 mL). After concentration, the resulting filtrate was applied onto a silica gel column (25% EtOAc in hexanes) resulting in 6.0 g of the title compound (93%) as a white powder.

reactant | 3,4,5-trifluorobenzaldehyde | 26.6 mmol, 4.26 g | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | ethyl 2-(triphenylphosphoranylidene)propionate | 29.3 mmol, 10.6 g | C1(=CC=CC=C1)P(=C(C(=O)OCC)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (E)-ethyl 2-methyl-3-(3,4,5-trifluorophenyl)acrylate | 6.0 g, 93% | C/C(/C(=O)OCC)=C\C1=CC(=C(C(=C1)F)F)F | C12H11F3O2
